US07307168B2
C) Preparation of 3-{2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl}-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one
To a suspension of 40 mg (0.9166 millimole) of 55% sodium hydride and 2 ml of tetrahydrofurane 0.1089 g (0.2532 millimole) of 3-[2-[4-[(2,4-difluorophenyl)-(hydroxyimino)-methyl]-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one is added. The reaction mixture is heated to boiling for an hour, whereupon 5 ml of water are added and the mixture is extracted twice with 10 ml of dichloromethane each. The combined organic phases are dried over magnesium sulfate and evaporated in vacuo. Thus 80 mg of the title compound are obtained, yield 77%. According to HPLC analysis the purity of the product is 97.5%.

reactant | sodium hydride | 0.9166 millimole, 40 mg | [H-].[Na+]
reactant | tetrahydrofurane | 0.2532 millimole, 2 ml, 0.1089 g | O1CCCC1 | C4H8O
reactant | 3-[2-[4-[(2,4-difluorophenyl)-(hydroxyimino)-methyl]-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | FC1=C(C=CC(=C1)F)C(C1CCN(CC1)CCC1=C(N=C2N(C1=O)CCCC2)C)=NO | C23H28F2N4O2
solvent | water | 5 ml | O | H2O
product | 3-{2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl}-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 80 mg, yield 77% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)CCCC3)C)C=C1 | C23H27FN4O2
